### PR TITLE
refactor(SetTheory/ZFC): make `Class` an `abbrev` for `Set ZFSet`

### PR DESCRIPTION
**Pull request by YaelDillies**
Also take the opportunity to perform a few more changes:
* Rename `Class` to `ZFClass`
* Rename the coercion from `ZFSet` to `ZFClass` to `ofSet` in lemma names, following the naming convention.

Some `simp`/`norm_cast` lemmas are becoming duplicates of lemmas about `Set ZFSet` in `ZFC.Basic`. We might want to drop the `abbrev` or move it earlier so as to deduplicate these lemmas, but this is out of scope for this PR.

Generated by Claude Sonnet/reviewed by myself in several prompts.

Assisted-by: Claude Sonnet 5

---
Deprecations incoming

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/ZFC/Class.lean [hunk 1]
```diff
@@ -11,96 +11,289 @@ public import Mathlib.SetTheory.ZFC.Ordinal
...
+to the first and spell the second as `A ∈ᶜ B`. -/
+@[pp_with_univ] abbrev ZFClass := Set ZFSet
+
+namespace ZFClass
+variable {A B C : ZFClass.{u}} {x y : ZFSet.{u}}
+
+/-- Membership of classes. `A ∈ᶜ B` if `A` is a ZFC set which satisfies `B`.
+
+Note that the `A ∈ B` notation is already taken for the case where `A : ZFSet` instead
+(the `OutParam` in `CMem` forces the type of `A` to be uniquely inferrable from the type of `B`). -/
```
Comment (vihdzp) [inline Mathlib/SetTheory/ZFC/Class.lean:40]: Typo?
```suggestion
(the `OutParam` in `Mem` forces the type of `A` to be uniquely inferrable from the type of `B`). -/
```

File: Mathlib/SetTheory/ZFC/Class.lean [hunk 2]
```diff
@@ -11,96 +11,289 @@ public import Mathlib.SetTheory.ZFC.Ordinal
...
+/-- Negated membership of classes, see `ZFClass.CMem`. -/
+scoped notation:50 A:50 " ∉ᶜ " B:50 => ¬ ZFClass.CMem A B
+
+/-- Coerce a ZFC set into a class -/
+@[coe]
+def ofSet (x : ZFSet.{u}) : ZFClass.{u} := {y | y ∈ x}
+
+instance : Coe ZFSet ZFClass := ⟨ofSet⟩
+
+@[simp, norm_cast] lemma mem_ofSet : x ∈ (y : ZFClass) ↔ x ∈ y := .rfl
```
Comment (vihdzp) [inline Mathlib/SetTheory/ZFC/Class.lean:56]: This duplicates `SetLike.mem_coe`.

File: Mathlib/SetTheory/ZFC/Class.lean [hunk 3]
```diff
@@ -11,96 +11,289 @@ public import Mathlib.SetTheory.ZFC.Ordinal
...
 theorem not_empty_hom (x : ZFSet.{u}) : ¬(∅ : Class.{u}) x :=
   id
 
-@[simp]
+@[simp, deprecated ZFClass.cmem_univ (since := "2026-09-05")]
 theorem mem_univ {A : Class.{u}} : A ∈ univ.{u} ↔ ∃ x : ZFSet.{u}, ↑x = A :=
   exists_congr fun _ => iff_of_eq (and_true _)
 
-@[simp]
+@[simp, deprecated Set.mem_univ (since := "2026-09-05")]
```
Comment (vihdzp) [inline Mathlib/SetTheory/ZFC/Class.lean:284]: These, and the other deprecated lemmas should not be `simp`. They trip up the `SimpNF` linter.

File: Mathlib/SetTheory/ZFC/Class.lean [hunk 4]
```diff
@@ -11,96 +11,289 @@ public import Mathlib.SetTheory.ZFC.Ordinal
...
+lemma ofSet_insert (x y : ZFSet.{u}) : ↑(insert x y) = insert x (y : ZFClass) := by ext; simp
+
+@[simp, norm_cast]
+lemma ofSet_union (x y : ZFSet.{u}) : ↑(x ∪ y) = (x : ZFClass) ∪ y := by ext; simp
+
+@[simp, norm_cast]
+lemma ofSet_inter (x y : ZFSet.{u}) : ↑(x ∩ y) = (x : ZFClass) ∩ y := by ext; simp
+
+@[simp, norm_cast]
+lemma ofSet_sdiff (x y : ZFSet.{u}) : ↑(x \ y) = (x : ZFClass) \ y := by ext; simp
```
Comment (vihdzp) [inline Mathlib/SetTheory/ZFC/Class.lean:133]: These all seem to be duplicates of lemmas in the `Basic` file.

**Review by vihdzp — COMMENTED** [review]
It seems a bit silly that we sometimes spell `Set ZFSet` as `ZFClass`, and other times as `Set ZFSet`. Do we really need the separate `ZFClass` abbrev? Can we just deprecate this material and restate the few lemmas with content (i.e. Burali-Forti) as lemmas about `Set ZFSet`?

File: Mathlib/SetTheory/ZFC/Class.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/SetTheory/ZFC/Class.lean:284]: I don't know where you got this from

Comment (vihdzp) [reply Mathlib/SetTheory/ZFC/Class.lean:284]: Well, if we make these lemmas `simp`, doesn't it make it so `simp?` starts suggesting them? That seems bad.

Comment (YaelDillies) [reply Mathlib/SetTheory/ZFC/Class.lean:284]: Yes, but
1. That has nothing to do with the simp nf linter. Are you sure you didn't misread the CI output?
2. They are about deprecated declarations, so what's the issue? I am keeping them simp so that I don't need to change the deprecated proofs in this file.

Comment (JovanGerb) [reply Mathlib/SetTheory/ZFC/Class.lean:284]: Then why not make them `local simp`?

Comment (YaelDillies) [reply Mathlib/SetTheory/ZFC/Class.lean:284]: Although this would work here, it has the wrong semantics: What if the lemmas I was deprecating were spread across two files?

Comment (JovanGerb) [reply Mathlib/SetTheory/ZFC/Class.lean:284]: Well, marking any deprecated lemma as `simp` definitely has wrong semantics.

Comment (YaelDillies) [reply Mathlib/SetTheory/ZFC/Class.lean:284]: No, I don't see how: if the LHS of the simp lemma contains a deprecated declaration, it is guaranteed not to fire in code relying only on non-deprecated declarations and not using `set_option linter.deprecated false`.

**Comment by YaelDillies** [comment]
> It seems a bit silly that we sometimes spell `Set ZFSet` as `ZFClass`, and other times as `Set ZFSet`. Do we really need the separate `ZFClass` abbrev? Can we just deprecate this material and restate the few lemmas with content (i.e. Burali-Forti) as lemmas about `Set ZFSet`?

I have thought about this and I find myself in an uncomfortable position:
1. On one hand, I am trying to land the huge refactor of making `Set` a one-field structure (#41506) in a timely fashion.
2. On the other hand, I want to land prerequisites in properly, and you are opposing the simplest version of the refactor of `ZFClass`, which is one of them, and instead require me to perform a much bigger preliminary refactor.

Could the solution be that you refactor `ZFClass` yourself very rapidly?

**Comment by vihdzp** [comment]
I can't really do things very rapidly at this moment, sorry. If we do decide to go in the direction I'm suggesting, I think this refactor would still be good intermediate work.

**Comment by YaelDillies** [comment]
Okay, let's worry about removing the `abbrev` later.

File: Mathlib/SetTheory/ZFC/Class.lean [hunk 5]
```diff
@@ -11,96 +11,266 @@ public import Mathlib.SetTheory.ZFC.Ordinal
...
+
+lemma cmem_asymm : A ∈ᶜ B → B ∉ᶜ A := asymm_of ZFClass.CMem
+
+lemma cmem_irrefl : A ∉ᶜ A := irrefl_of _ _
+
+/-- **There is no universal set.**
+
+This is stated as `univ ∉ᶜ univ`, meaning that `univ` (the class of all sets) is proper
+(does not belong to the class of all sets). -/
+lemma univ_notCMem_univ : (.univ : ZFClass) ∉ᶜ .univ := cmem_irrefl
```
Comment (JovanGerb) [inline Mathlib/SetTheory/ZFC/Class.lean]:
```suggestion
lemma univ_notCMem_univ : .univ ∉ᶜ .univ := cmem_irrefl
```
This type annotation is redundant

File: Mathlib/SetTheory/ZFC/Class.lean [hunk 6]
```diff
@@ -11,96 +11,266 @@ public import Mathlib.SetTheory.ZFC.Ordinal
...
+scoped prefix:110 "⋃₀ " => ZFClass.sUnion
+
+/-- The intersection of a class is the class of all members of ZFC sets in the class .
+Uses `⋂₀` notation, scoped under the `ZFClass` namespace. -/
+def sInter (x : ZFClass) : ZFClass := sInf (classToCong x)
+
+@[inherit_doc]
+scoped prefix:110 "⋂₀ " => ZFClass.sInter
+
+lemma coe_subset : (x : ZFClass.{u}) ⊆ y ↔ x ⊆ y := .rfl
```
Comment (JovanGerb) [inline Mathlib/SetTheory/ZFC/Class.lean:99]: A bunch of these lemmas have lost their `simp`/`norm_cast` attribute. Is this intentional?

**Review by JovanGerb — COMMENTED** [review]
Should there be a `recommended_spelling` entry for the new `∈ᶜ` notation? You use `cmem`, but wouldn't that fit with `ᶜ∈`, while `∈ᶜ` reads as `memc`? Additionally, since we spell `∉` as `notmem`, I think `∉ᶜ` should be one word, so `notmemc` or `notcmem` or `cnotmem`.

The docstring of `ZFClass` and `CMem` both explain the need for the `∉ᶜ` notation (in different words). One of these can be dropped I think.

All of the `theorem` commands were changed to `lemma`. Is this intentional?

File: Mathlib/SetTheory/ZFC/Class.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/SetTheory/ZFC/Class.lean:99]: Yes. As pointed out by Violeta in https://github.com/leanprover-community/mathlib4/pull/43467#discussion_r3946961618, these lemmas are duplicates of lemmas about `Set ZFSet` in `.Basic`. As was decided above, I am not touching this further for the purpose of moving forward with the `Set` refactor.

**Comment by YaelDillies** [comment]
> Should there be a `recommended_spelling` entry for the new `∈ᶜ` notation?

I don't see the point of a `recommended_spelling` for `CMem`: it is the name of the underlying declaration. I will add one for its negation, since indeed we call it `notCMem`, instead of `not_cmem`.

> You use `cmem`, but wouldn't that fit with `ᶜ∈`, while `∈ᶜ` reads as `memc`?

I chose `CMem`, not `MemC`, because between `(x : ZFSet) ∈ (A : ZFClass)` and `(A : ZFClass) ∈ (B : ZFClass)` it is the left argument that changes type, not the right. I will change the notation to `ᶜ∈`.

> Additionally, since we spell `∉` as `notmem`, I think `∉ᶜ` should be one word, so `notmemc` or `notcmem` or `cnotmem`.

No, we spell it `notMem`, which is why I have been using `notCMem` instead of `notcmem`.

> The docstring of `ZFClass` and `CMem` both explain the need for the `∉ᶜ` notation (in different words). One of these can be dropped I think.

Here sure it looks out of place in the docstring of `ZFClass`. But I disagree with the suggested principle that things should be documented in exactly one place.

> All of the `theorem` commands were changed to `lemma`. Is this intentional?

Whoops, fixed.

**Comment by JovanGerb** [comment]
There is still the lemma called `not_cmem_empty` instead of `notCMem_empty`

Also, it looks like there are still quite some lemmas that used to be theorems. (I don't necessarily mind, but it's good to be aware at least)
